US07176242B2
To a 250 ml 3-neck round bottom flask was added (20 g, 0.3332 moles) urea, (150 ml) ethanol and (42.42 g, 0.2175 moles, 0.65 eq) ethylbromopyruvate. The mixture was then heated under agitation to reflux for 16 hours. The reaction solution changed from yellow to red in color. The reaction solution was then evaporated to dryness and the crude product was taken up in (50 ml) water and (150 ml) ethyl acetate. The pH was adjusted from 1 to 10 using 2N sodium hydroxide, changing the biphasic mixture a dark red. The mixture was separated and the aqueous phase was extracted twice with ethyl acetate. The organic layers were then combined and washed with water and brine. The resulting yellow solution was concentrated to ˜50 ml, causing an off-white solid to precipitate out. The solid was filtered off and washed with ethanol and diethyl ether. The mother liquor was then evaporated to dryness and the resulting oily solid was taken up in (150 ml) ethyl acetate and concentrated to ˜50 ml. An off-white solid precipitated out. The mixture was cooled in an ice bath, and the solid was filtered off and washed with ethanol and diethyl ether to give ethyl 2-amino-1,3-oxazole-4-carboxylate (14.79 g).

reactant | urea | 0.3332 moles, 150 ml, 20 g | NC(=O)N | CH4N2O
reactant | ethylbromopyruvate | 0.2175 moles, 42.42 g, 0.65 eq | C(C)C(C(C(=O)[O-])=O)Br
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-1,3-oxazole-4-carboxylate | 14.79 g | NC=1OC=C(N1)C(=O)OCC | C6H8N2O3
